US03941789
11.3 gm (38.5 millimols) of N-(p-amino-phenethyl)-N'-(m-tolyl)-piperazine, 4.6 gm (38.5 millimols) of 3-chloropropyl-isocyanate and 120 ml of toluene were admixed with each other, accompanied by gentle agitation, and the mixture was allowed to react for two hours and was then vacuum-filtered, yielding as the filter cake 90% of theory of N-[p-(3-chloropropyl-ureido)-phenethyl]-N'-(m-tolyl)-piperazine, m.p. 168°C.

reactant | N-(p-amino-phenethyl)-N'-(m-tolyl)-piperazine | 38.5 millimols, 11.3 gm | NC1=CC=C(CCN2CCN(CC2)C=2C=C(C=CC2)C)C=C1 | C19H25N3
reactant | 3-chloropropyl-isocyanate | 38.5 millimols, 4.6 gm | ClCCCN=C=O | C4H6ClNO
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | N-[p-(3-chloropropyl-ureido)-phenethyl]-N'-(m-tolyl)-piperazine | ClCCCNC(NC1=CC=C(CCN2CCN(CC2)C=2C=C(C=CC2)C)C=C1)=O | C23H31ClN4O
